US04806535
A solution of 0.43 g (1.4 mmol) of 3-[4-(1H-imidazol-1-yl)benzoyl]-4-carbomethoxypyridine in 50 mL of EtOH is treated with hydrazine monohydrate (0.08 g, 1.54 mmol) and heated to reflux for 1 day. The mixture is allowed to cool and the white solid precipitate filtered and dried to produce 4-[4-(1H-imidazol-1-yl)phenyl]-1-oxo-1,2-dihydropyrido[3,4-d]pyridazine. M.P. 377° C. dec.

reactant | 3-[4-(1H-imidazol-1-yl)benzoyl]-4-carbomethoxypyridine | 1.4 mmol, 0.43 g | N1(C=NC=C1)C1=CC=C(C(=O)C=2C=NC=CC2C(=O)OC)C=C1 | C17H13N3O3
reactant | hydrazine monohydrate | 1.54 mmol, 0.08 g | O.NN
solvent | EtOH | 50 mL | CCO | C2H6O
product | 4-[4-(1H-imidazol-1-yl)phenyl]-1-oxo-1,2-dihydropyrido[3,4-d]pyridazine | N1(C=NC=C1)C1=CC=C(C=C1)C1=NNC(C2=C1C=NC=C2)=O | C16H11N5O
